US04772600
2-(3-Bromophenyl)-N,N-dimethyl-3H-imidazo[4,5-b]pyridine-3-acetamide
A suspension of 2-(3-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid (6.0 g, 0.018 mole), and 1,1'carbonyldiimidazole (2.9 g, 0.018 mole), in anhydrous tetrahydrofuran (175 ml) was stirred at room temperature with a stream of nitrogen bubbling through it for 4 hours. The nitrogen flow was stopped and a solution of dimethylamine in tetrahydrofuran (72 ml of 0.5M) was added. The solution was stirred at room temperature under nitrogen for 1/2 hour. The reaction mixture was filtered, concentrated in vacuo and the residue triturated in water (100 ml) and filtered. The filter cake was recrystallized from tetrahydrofuran-isopropyl ether, giving 4.5 g (70%). Recrystallization from isopropyl alcohol-isopropyl ether gave 4.0 g of cream colored needles, mp 144°-146° C.

reactant | 2-(3-bromophenyl)-3H-imidazo[4,5-b]pyridine-3-acetic acid | 0.018 mole, 6.0 g | BrC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)O | C14H10BrN3O2
reactant | 1,1'carbonyldiimidazole | 0.018 mole, 2.9 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | dimethylamine | CNC | C2H7N
solvent | tetrahydrofuran | 175 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 0.5M, 72 ml | O1CCCC1 | C4H8O
product | 2-(3-Bromophenyl)-N,N-dimethyl-3H-imidazo[4,5-b]pyridine-3-acetamide | BrC=1C=C(C=CC1)C1=NC=2C(=NC=CC2)N1CC(=O)N(C)C | C16H15BrN4O
